### PR TITLE
feat(SimpleGraph): graph isomorphism preserves `IsAcyclic`/`IsTree`

### PR DESCRIPTION
**Pull request by vlad902**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Acyclic.lean [hunk 1]
```diff
@@ -123,6 +123,20 @@ theorem isAcyclic_of_path_unique (h : ∀ (v w : V) (p q : G.Path v w), p = q) :
 theorem isAcyclic_iff_path_unique : G.IsAcyclic ↔ ∀ ⦃v w : V⦄ (p q : G.Path v w), p = q :=
   ⟨IsAcyclic.path_unique, isAcyclic_of_path_unique⟩
 
+theorem IsAcyclic.comap (f : G →g H) (hf : Function.Injective f) (hG : H.IsAcyclic) :
+    G.IsAcyclic := by
+  simp only [IsAcyclic] at ⊢ hG
+  intro v w
+  have := w.map_isCycle_iff_of_injective hf
+  grind
```
Comment (themathqueen) [inline Mathlib/Combinatorics/SimpleGraph/Acyclic.lean]:
```suggestion
    G.IsAcyclic :=
  fun _ w ↦ (iff_false_right <| hG _).mp (w.map_isCycle_iff_of_injective hf).symm
```

**Comment by vlad902** [comment]
Closing in favor of #30317
